US05635510
56.5 Synthesis of 2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl]-ethanol (23 mmol) and 3,4,5-trimethoxy-benzoyl chloride (23 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl]-ethanol | 23 mmol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CNC(C1)=O)CCO | C18H29NO3Si
reactant | 3,4,5-trimethoxy-benzoyl chloride | 23 mmol | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCO | C28H41NO6Si
